2196-08-26 08:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2196-8-25**] 05:38 PM
   Single lumen PICC
   hypertonic saline was started
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-8-25**] 09:06 PM
   Piperacillin/Tazobactam (Zosyn) - [**2196-8-26**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-8-25**] 09:05 PM
   Morphine Sulfate - [**2196-8-26**] 04:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-8-26**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.4
   HR: 67 (64 - 80) bpm
   BP: 111/54(68) {102/39(57) - 125/57(71)} mmHg
   RR: 10 (5 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
           Total In:
                                                                    730 mL
                                                                    742 mL
   PO:
                                                                     30 mL
           TF:
   IVF:
                                                                    325 mL
                                                                    367 mL
   Blood products:
                                                                    375 mL
                                                                    375 mL
   Total out:
                                                                    380 mL
                                                                    110 mL
   Urine:
                                                                    130 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    350 mL
                                                                    632 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera icteric, dry MM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, distended, tympanic to percussion, bowel
   sounds present, no rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: mild asterixis, + edema to thighs, warm, well perfused, 2+ pulses,
   no clubbing, cyanosis or edema
   Labs / Radiology
   79 K/uL
   7.6 g/dL
   92 mg/dL
   7.3 mg/dL
   19 mEq/L
   4.6 mEq/L
   76 mg/dL
   86 mEq/L
   113 mEq/L
   23.3 %
   14.5 K/uL
        [image002.jpg]
                             [**2196-8-25**]  05:52 PM
                             [**2196-8-26**]  02:30 AM
                             [**2196-8-26**]  06:51 AM
   WBC
   18.0
   14.5
   Hct
   21.3
   21.0
   23.3
   Plt
   104
   79
   Cr
   7.0
   7.3
   Glucose
   78
   92
   Other labs: PT / PTT / INR:20.5/49.1/1.9, ALT / AST:24/45, Alk Phos / T
   Bili:96/18.0, Differential-Neuts:81.5 %, Lymph:10.9 %, Mono:3.8 %,
   Eos:3.4 %, Lactic Acid:1.7 mmol/L, Albumin:2.9 g/dL, LDH:277 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:8.9 mg/dL
   Assessment and Plan
   In brief this is a 45 yo man with cirrhosis c/b known varices, ascites,
   encephalopathy, is being transfered from St Josephs after presenting
   there with shortness of breath and being found to have leukocytosis,
   bacteremia, anemia and rising creatinine.
   .
   # Leukocytosis, bacteremia: Infective etiologies include most likely
   SBP. PNA is less likely given report of normal CXR. No evidence of SIRS
   at this time, but will monitor closely. Source of mixed bacteremia is
   unlcear, possible sources include SBP, PNA, UTI. No evidence of
   peritonitis on exam. WBCs improving with abx.
   - f/u Bcx sensitivities, repeat CXR, Bcx, UA/Ucx
   - diagnostic para (although he has already received abx and the
   diagnostic information will be limited. If MS change, fever, or
   worsening leuks then dx para.
   - empiric broad spectrum abx with vancomycin (given GPC and recent
   hospitalization) and zosyn, then tailor appropriately.
   .
   # Anemia: concerning for GIB given history of cirrhosis with esophageal
   varices. No evidence of hematemsis or hematochezia.
   - monitor stool guaiac, HCT, VS
   - EGD/[**Last Name (un) **] to further eval
   - pIVx3, HCT>30, PLT>50, INT<1.5
   - HCT q 8hrs
   - [**Hospital1 **] PPI, octreotide ggt
   .
   # ARF and oligouria: Ddx includes volume depletion (given recent
   diuretics), HRS, intrinsic renal etiologies.   Urine lytes consistent
   with pre-renal and SIADH given elevated osmolality
   - renal ultrasound to eval hydronephrosis
   - hold diuretics
   - IVF/albumin trial as well as octreotide/midodrine
   - renal reccs
   .
   # Hyponatremia, hypervolemic: likely related to cirrhosis and volume
   overload.
   - Fluid restriction 1 lt
   - continue hypertonic saline cautiously and monitor sodium closely
   .
   # Cirrhosis c/b known varices, encephalopathy and ascites: Likely etoh
   cirrhosis but also has positive smoth mm ab and elevated IgG.
   - Ascites: monitor abdominal exam, if worsens then therapeutic tap
   - Encephalopathy: only mild asterixis on exam, oriented. Continue
   lactulose/rifaximin.
   - Varices: stable. Will monitor guaiacs.
   .
   FEN: NPO, replete electrolytes,
   Prophylaxis: PNB, PPI
   Access: pIV, PICC
   Code:  Full (discussed with patient)
   Communication: Patient
   Disposition: pending clinical improvement
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   PICC Line - [**2196-8-25**] 05:38 PM
   22 Gauge - [**2196-8-25**] 06:42 PM
   18 Gauge - [**2196-8-25**] 08:45 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-08-26 09:38:00 Physician Attending Progress Note
Chief Complaint: arf, anemia, bacteremia
   HPI:
   45M with etoh cirrhosis, presented to osh with arf, now txr to [**Hospital1 **]
   for further monitoring. Pt presented with arf and severe anemia. Does
   have ascites and varices s/p banding in the past. In OSH pt had
   bacteremia polymicrobial. Oliguric, with asterixis.
   24 Hour Events:
 PICC LINE - START [**2196-8-25**] 05:38 PM
   Single lumen PICC
   -started on 3% sodium given Na 113
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-8-25**] 09:06 PM
   Piperacillin/Tazobactam (Zosyn) - [**2196-8-26**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-8-25**] 09:05 PM
   Morphine Sulfate - [**2196-8-26**] 04:09 AM
   Other medications:
   protonix, rifaximin, midodine, octreotide, lactulose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Genitourinary: No(t) Dysuria, Foley
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2196-8-26**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (96.9
   HR: 66 (64 - 80) bpm
   BP: 108/50(65) {102/39(57) - 125/57(71)} mmHg
   RR: 7 (5 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
           Total In:
                                                                    799 mL
                                                                    929 mL
   PO:
                                                                     30 mL
           TF:
   IVF:
                                                                    394 mL
                                                                    554 mL
   Blood products:
                                                                    375 mL
                                                                    375 mL
   Total out:
                                                                    380 mL
                                                                    170 mL
   Urine:
                                                                    130 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    419 mL
                                                                    759 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: icteric
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anterior)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed; + asterixis
   Labs / Radiology
   7.6 g/dL
   79 K/uL
   92 mg/dL
   7.3 mg/dL
   19 mEq/L
   4.6 mEq/L
   76 mg/dL
   86 mEq/L
   114 mEq/L
   23.3 %
   14.5 K/uL
        [image002.jpg]
                             [**2196-8-25**]  05:52 PM
                             [**2196-8-26**]  02:30 AM
                             [**2196-8-26**]  06:51 AM
   WBC
   18.0
   14.5
   Hct
   21.3
   21.0
   23.3
   Plt
   104
   79
   Cr
   7.0
   7.3
   Glucose
   78
   92
   Other labs: PT / PTT / INR:20.5/49.1/1.9, ALT / AST:24/45, Alk Phos / T
   Bili:96/18.0, Differential-Neuts:81.5 %, Lymph:10.9 %, Mono:3.8 %,
   Eos:3.4 %, Lactic Acid:1.7 mmol/L, Albumin:2.9 g/dL, LDH:277 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:8.9 mg/dL
   Imaging: cxr: R picc; no infiltrate
   Microbiology: osh cultures pending
   Assessment and Plan
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HEPATORENAL SYNDROME
   45M with etoh cirrhosis, presented to osh with arf, now txr to [**Hospital1 **]
   for further monitoring. Pt presented with oliguric, arf and severe
   anemia, and polymicrobial bacteremia. Bacteremia is likely from SBP,
   though fluid never sampled. Currently on abx seem to be working, with
   decreased leukocytosis and fever curve.
   Bacteremia:
   -follow-up osh cultures
   -cont zosyn / vanco
   -will need a new long-term catheter
   -diagnostic paracentesis under consideration
   ARF: hrs vs nsaid-induced; renal u/s normal at OSH
   -renal consulted, awaiting recs
   -check urine studies and review
   -treat HRS empirically
   Anemia: h/o varices, but no hematemesis
   -gi may do EGD today to re-evaluate varices
   -transfuse PRBC prn
   HypoNatremia: severe but no sx
   -hypertonic saline until Na 120; err on less
   -continue fluid restriction
   -no ADH inhibitor available
   -very frequent Na checks and stop when Na reaches 120
   Encephalopathy
   -lactulose and rifaxamin
   -monitor exam
   ICU Care
   Nutrition: NPO for possible
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2196-8-25**] 05:38 PM
   22 Gauge - [**2196-8-25**] 06:42 PM
   18 Gauge - [**2196-8-25**] 08:45 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor when off hypertonic saline
   Total time spent: 35 minutes